US07179912B2
1-(2-Hydroxy-4-morpholin-4-yl-phenyl)-propan-1-one
Following the procedure for preparing Example 34, 4-(4-morpholinyl)-salicylaldehyde (1.0 g, 5 mmol) and ethylmagnesium bromide (1.0 M solution in tetrahydrofuran, 11 mL, 11 mmol) were converted to the product (208 mg, 18%).

reactant | 4-(4-morpholinyl)-salicylaldehyde | 5 mmol, 1.0 g | N1(CCOCC1)C=1C=C(C(C=O)=CC1)O | C11H13NO3
reactant | ethylmagnesium bromide | 11 mmol, 1.0 M, 11 mL | C(C)[Mg]Br
product | 1-(2-Hydroxy-4-morpholin-4-yl-phenyl)-propan-1-one | OC1=C(C=CC(=C1)N1CCOCC1)C(CC)=O | C13H17NO3
